### PR TITLE
[Merged by Bors] - feat: column and row partitioned matrices

### PR DESCRIPTION
**Pull request by MohanadAhmed**
This file provides the basic definitions of matrices composed from columns and rows. The concatenation of two matrices with the same row indices can be expressed as `A = fromColumns A₁ A₂` the concatenation of two matrices with the same column indices can be expressed as `B = fromRows B₁ B₂`.

We then provide a few lemmas that deal with the products of these with each other and with block matrices. Two particular lemmas `fromColumns_mul_fromRows_eq_one_comm` and `equiv_compl_fromColumns_mul_fromRows_eq_one_comm` deal with the case of matrix multiplication that gives one as a result. This gives a crude (but usable) replacement for the `Invertible` type which can only be applied to square matrices (with the same index type for rows and columns).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 1]
```diff
@@ -0,0 +1,229 @@
...
+  funext i j
+  cases' j with j j
+  all_goals (simp only [transpose_apply, of_apply, Sum.elim_inl, Sum.elim_inr] )
+
+section Semiring
+
+variable [Semiring R]
+
+lemma fromRows_mul (A₁ : Matrix M₁ N R) (A₂ : Matrix M₂ N R) (B : Matrix N M R) :
+    (fromRows A₁ A₂) ⬝ B = fromRows (A₁⬝B) (A₂⬝B) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:102]: We put spaces around all operators.
```suggestion
    (fromRows A₁ A₂) ⬝ B = fromRows (A₁ ⬝ B) (A₂ ⬝ B) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 2]
```diff
@@ -0,0 +1,229 @@
...
+  unfold fromRows
+  funext i j
+  cases' i with i i
+  all_goals (simp only [mul_apply, of_apply, Sum.elim_inl, Sum.elim_inr] )
+
+lemma mul_fromColumns (A : Matrix M N R) (B₁ : Matrix N N₁ R) (B₂ : Matrix N N₂ R) :
+    A ⬝ (fromColumns B₁ B₂) = fromColumns (A⬝B₁) (A⬝B₂) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:109]:
```suggestion
    A ⬝ (fromColumns B₁ B₂) = fromColumns (A ⬝ B₁) (A ⬝ B₂) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 3]
```diff
@@ -0,0 +1,229 @@
...
+lemma fromColumns_zero : fromColumns (0 : Matrix M N₁ R) (0 : Matrix M N₂ R) = 0 := by
+  funext i j
+  unfold fromColumns
+  cases' j with j j
+  all_goals (simp only [of_apply, Sum.elim_inl, Sum.elim_inr, zero_apply])
+
+/-- A row partitioned matrix multiplied by a column partioned matrix gives a 2 by 2 block matrix -/
+lemma fromRows_mul_fromColumns (A₁ : Matrix M₁ N R) (A₂ : Matrix M₂ N R)
+    (B₁ : Matrix N N₁ R) (B₂ : Matrix N N₂ R) :
+    (fromRows A₁ A₂) ⬝ (fromColumns B₁ B₂) = fromBlocks (A₁⬝B₁) (A₁⬝B₂) (A₂⬝B₁) (A₂⬝B₂) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:129]:
```suggestion
    (fromRows A₁ A₂) ⬝ (fromColumns B₁ B₂) = fromBlocks (A₁ ⬝ B₁) (A₁ ⬝ B₂) (A₂ ⬝ B₁) (A₂ ⬝ B₂) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 4]
```diff
@@ -0,0 +1,229 @@
...
+  all_goals (cases j)
+  all_goals (simp only [
+    fromBlocks_apply₁₁, fromBlocks_apply₁₂, fromBlocks_apply₂₁, fromBlocks_apply₂₂,
+      mul_apply, of_apply, Sum.elim_inl, Sum.elim_inr] )
+
+/-- A column partitioned matrix mulitplied by a row partitioned matrix gives the sum of the "outer"
+products of the block matrices -/
+lemma fromColumns_mul_fromRows (A₁ : Matrix M N₁ R) (A₂ : Matrix M N₂ R)
+    (B₁ : Matrix N₁ N R) (B₂ : Matrix N₂ N R) :
+    fromColumns A₁ A₂ ⬝ fromRows B₁ B₂ = (A₁⬝B₁ + A₂⬝B₂) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:142]:
```suggestion
    fromColumns A₁ A₂ ⬝ fromRows B₁ B₂ = (A₁ ⬝ B₁ + A₂ ⬝ B₂) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 5]
```diff
@@ -0,0 +1,229 @@
...
+  funext i j
+  rw [fromRows, fromColumns]
+  simp only [add_apply, mul_apply, of_apply, Fintype.sum_sum_type, Sum.elim_inl, Sum.elim_inr]
+
+/-- A column partitioned matrix multipiled by a block matrix results in a column partioned matrix -/
+lemma fromColumns_mul_fromBlocks (A₁ : Matrix M M₁ R) (A₂ : Matrix M M₂ R)
+    (B₁₁ : Matrix M₁ N₁ R) (B₁₂ : Matrix M₁ N₂ R) (B₂₁ : Matrix M₂ N₁ R) (B₂₂ : Matrix M₂ N₂ R) :
+    (fromColumns A₁ A₂) ⬝ fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ =
+      fromColumns (A₁⬝B₁₁ + A₂⬝B₂₁) (A₁⬝B₁₂ + A₂⬝B₂₂) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:151]:
```suggestion
      fromColumns (A₁ ⬝ B₁₁ + A₂ ⬝ B₂₁) (A₁ ⬝ B₁₂ + A₂ ⬝ B₂₂) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 6]
```diff
@@ -0,0 +1,229 @@
...
+  rw [fromColumns, fromColumns, fromBlocks]
+  cases j
+  all_goals simp only [of_apply, add_apply, Fintype.sum_sum_type, Sum.elim_inl,
+    Sum.elim_inr, mul_apply]
+
+/-- A block matrix mulitplied by a row partitioned matrix gives a row partitioned matrix -/
+lemma fromBlocks_mul_fromRows (A₁ : Matrix N₁ N R) (A₂ : Matrix N₂ N R)
+    (B₁₁ : Matrix M₁ N₁ R) (B₁₂ : Matrix M₁ N₂ R) (B₂₁ : Matrix M₂ N₁ R) (B₂₂ : Matrix M₂ N₂ R) :
+    fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ ⬝ (fromRows A₁ A₂) =
+      fromRows (B₁₁⬝A₁ + B₁₂⬝A₂) (B₂₁⬝A₁ + B₂₂⬝A₂) := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:162]:
```suggestion
      fromRows (B₁₁ ⬝ A₁ + B₁₂ ⬝ A₂) (B₂₁ ⬝ A₁ + B₂₂ ⬝ A₂) := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 7]
```diff
@@ -0,0 +1,229 @@
...
+
+/-- Given a row partitioned matrix extract the first row -/
+def toRows₁ (A : Matrix (M₁ ⊕ M₂) N R) : Matrix M₁ N R :=  of fun i j => (A (Sum.inl i) j)
+
+/-- Given a row partitioned matrix extract the second row -/
+def toRows₂ (A : Matrix (M₁ ⊕ M₂) N R) : Matrix M₂ N R :=  of fun i j => (A (Sum.inr i) j)
+
+lemma fromColumns_toColumns (A : Matrix M (N₁ ⊕ N₂) R) :
+    A = fromColumns A.toColumns₁ A.toColumns₂ := by
+  unfold fromColumns toColumns₁ toColumns₂
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:58]: The fact that you have to unfold `fromColumns` and `toColumns` etc. so often suggests that there is a missing suite of lemmas (these can all be tagged `@[simp]`):
 * `fromColumns A₁ A₂ (Sum.inl i) j = A₁ i j`
 * `fromColumns A₁ A₂ (Sum.inr i) j = A₂ i j`
 * `toColumns₁ A i j = A (Sum.inl i) j`
 * `toColumns₂ A i j = A (Sum.inr i) j`
 * `toColumns₁ (fromColumns A₁ A₂) = A₁`
 * `toColumns₂ (fromColumns A₁ A₂) = A₂`
The reason we prefer using `simp` lemmas like these over unfolding is that they can be automated more easily. And writing them in an applied form gives a good balance between unfolding too much and not enough.

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 8]
```diff
@@ -0,0 +1,229 @@
...
+  funext i j
+  unfold fromRows
+  simp only [Sum.elim_zero_zero, of_apply, Pi.zero_apply, zero_apply]
+
+lemma fromColumns_zero : fromColumns (0 : Matrix M N₁ R) (0 : Matrix M N₂ R) = 0 := by
+  funext i j
+  unfold fromColumns
+  cases' j with j j
+  all_goals (simp only [of_apply, Sum.elim_inl, Sum.elim_inr, zero_apply])
+
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:125]: Could you add `simp` lemmas saying `fromColumns (fromRows A₁ A₂) (fromRows B₁ B₂) = fromBlocks A₁ A₂ B₁ B₂` and `fromRows (fromColumns A₁ A₂) (fromColumns B₁ B₂) = fromBlocks A₁ A₂ B₁ B₂`?

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 9]
```diff
@@ -0,0 +1,229 @@
...
+lemma fromColumns_toColumns (A : Matrix M (N₁ ⊕ N₂) R) :
+    A = fromColumns A.toColumns₁ A.toColumns₂ := by
+  unfold fromColumns toColumns₁ toColumns₂
+  funext i j
+  cases' j
+  all_goals (simp only [of_apply, Sum.elim_inl, Sum.elim_inr])
+
+lemma fromColumns_ext_iff (A₁ : Matrix M N₁ R) (A₂ : Matrix M N₂ R) (B₁ : Matrix M N₁ R)
+    (B₂ : Matrix M N₂ R) : fromColumns A₁ A₂ = fromColumns B₁ B₂ ↔ A₁ = B₁ ∧ A₂ = B₂ := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:64]: To clearly separate the hypotheses from the conclusion, I prefer to keep the conclusion on its own line. (This is a matter of taste, but certainly with long conclusions this is quite important.)
```suggestion
lemma fromColumns_ext_iff (A₁ : Matrix M N₁ R) (A₂ : Matrix M N₂ R) (B₁ : Matrix M N₁ R)
    (B₂ : Matrix M N₂ R) :
    fromColumns A₁ A₂ = fromColumns B₁ B₂ ↔ A₁ = B₁ ∧ A₂ = B₂ := by
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 10]
```diff
@@ -0,0 +1,229 @@
...
+
+section CommRing
+
+variable [CommRing R]
+
+/- Given that the index set N and the direct sum of the index sets N₁ and N₂ are in bijection then
+the matrix A : N × (N₁ ⊕ N₂) := Cols[A₁ A₂] is actually a "square". Hence, if its product with
+another matrix B : (N₁ ⊕ N₂) × N := Rows[B₁ B₂] matrix is one, the other matrix must be its inverse
+Mulitplication of a matrix by its inverse is commutative. This is column(row) partioned matrix form
+of `mul_eq_one_comm` -/
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:179]: I didn't really understand the comment you wrote. There seem to be four main messages in here:
 * A high-level description of the theorem
 * How it relates to other theorems
 * What the bijection means
 * What the theorem precisely states.

All of these are valuable information, but I would present them in this order. Moreover, what the theorem precisely states can be read from the type of the theorem so there is no need to repeat that in the comment.

```suggestion
/-- Multiplication of a matrix by its inverse is commutative.
This is the column and row partitioned matrix form of `Matrix.mul_eq_one_comm`.

The condition `e : N ≃ N₁ ⊕ N₂` states that `fromColumns A₁ A₂` and `fromRows B₁ B₂` are "square".
-/
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 11]
```diff
@@ -0,0 +1,229 @@
...
+  cases' j
+  all_goals (simp only [of_apply, Sum.elim_inl, Sum.elim_inr])
+
+lemma fromColumns_ext_iff (A₁ : Matrix M N₁ R) (A₂ : Matrix M N₂ R) (B₁ : Matrix M N₁ R)
+    (B₂ : Matrix M N₂ R) : fromColumns A₁ A₂ = fromColumns B₁ B₂ ↔ A₁ = B₁ ∧ A₂ = B₂ := by
+  simp_rw [fromColumns, ← Matrix.ext_iff, of_apply, Sum.forall, Sum.elim_inl, Sum.elim_inr]
+  exact ⟨(fun h => ⟨fun i j => (h i).1 j, fun _ _ => (h _).2 _⟩),
+    (fun h => (fun _ => ⟨(h.1 _), (h.2 _)⟩))⟩
+
+lemma fromRows_toRows (A : Matrix (M₁ ⊕ M₂) N R) : A = fromRows A.toRows₁ A.toRows₂ := by
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:69]: I would move this to be right after `fromColumns_toColumns`, so that each column result is followed by the corresponding result on rows.

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 12]
```diff
@@ -0,0 +1,229 @@
...
+
+variable {R: Type _}
+variable {M M₁ M₂ N N₁ N₂: Type _}
+variable [Fintype M][Fintype M₁][Fintype M₂]
+variable [Fintype N][Fintype N₁][Fintype N₂]
+variable [DecidableEq M][DecidableEq M₁][DecidableEq M₂]
+variable [DecidableEq N][DecidableEq N₁][DecidableEq N₂]
+
+/-- Concatenate together two matrices A₁[M₁ × N] and A₂[M₂ × N] with the same columns (N) to get a
+bigger matrix indexed by [(M₁ ⊕ M₂) × N] -/
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:35]: I'm not familiar with the `A₁[M₁ × N]` notation, maybe you have a reference for it?

**Review by Vierkantor — COMMENTED** [review]
Sorry for taking a while to get around to your review. Overall I like the structure of your work, there are just a few things that we need to fill in and clean up.

I propose some extra lemmas that will noticeably change your proofs, so I will look at the style of proofs next time.

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 13]
```diff
@@ -0,0 +1,332 @@
...
+/-- A block matrix mulitplied by a row partitioned matrix gives a row partitioned matrix -/
+lemma fromBlocks_mul_fromRows (A₁ : Matrix n₁ n R) (A₂ : Matrix n₂ n R)
+    (B₁₁ : Matrix m₁ n₁ R) (B₁₂ : Matrix m₁ n₂ R) (B₂₁ : Matrix m₂ n₁ R) (B₂₂ : Matrix m₂ n₂ R) :
+    fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ ⬝ (fromRows A₁ A₂) =
+      fromRows (B₁₁ ⬝ A₁ + B₁₂ ⬝ A₂) (B₂₁ ⬝ A₁ + B₂₂ ⬝ A₂) := by
+  funext i j
+  rw [fromRows, fromRows, fromBlocks]
+  cases i
+  all_goals simp only [of_apply, add_apply, Fintype.sum_sum_type, Sum.elim_inl, Sum.elim_inr,
+    mul_apply]
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:269]:
```suggestion

@[simp]
lemma fromRows_mul (A₁ : Matrix m₁ n R) (A₂ : Matrix m₂ n R) (B : Matrix n m R) :
    (fromRows A₁ A₂) ⬝ B = fromRows (A₁ ⬝ B) (A₂ ⬝ B) := by
  ext (_ | _) _ <;> simp [mul_apply]

@[simp]
lemma mul_fromColumns (A : Matrix m n R) (B₁ : Matrix n n₁ R) (B₂ : Matrix n n₂ R) :
    A ⬝ (fromColumns B₁ B₂) = fromColumns (A ⬝ B₁) (A ⬝ B₂) := by
  ext _ (_ | _) <;> simp [mul_apply]

@[simp]
lemma fromRows_zero : fromRows (0 : Matrix m₁ n R) (0 : Matrix m₂ n R) = 0 := by
  ext (_ | _) _ <;> simp

@[simp]
lemma fromColumns_zero : fromColumns (0 : Matrix m n₁ R) (0 : Matrix m n₂ R) = 0 := by
  ext _ (_ | _) <;> simp

@[simp]
lemma fromColumns_fromRows_eq_fromBlocks (B₁₁ : Matrix m₁ n₁ R) (B₁₂ : Matrix m₁ n₂ R)
    (B₂₁ : Matrix m₂ n₁ R) (B₂₂ : Matrix m₂ n₂ R) :
    fromColumns (fromRows B₁₁ B₂₁) (fromRows B₁₂ B₂₂) = fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ := by
  ext (_ | _) (_ | _) <;> simp

@[simp]
lemma fromRows_fromColumn_eq_fromBlocks (B₁₁ : Matrix m₁ n₁ R) (B₁₂ : Matrix m₁ n₂ R)
    (B₂₁ : Matrix m₂ n₁ R) (B₂₂ : Matrix m₂ n₂ R) :
    fromRows (fromColumns B₁₁ B₁₂) (fromColumns B₂₁ B₂₂) = fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ := by
  ext (_ | _) (_ | _) <;> simp

/-- A row partitioned matrix multiplied by a column partioned matrix gives a 2 by 2 block matrix -/
lemma fromRows_mul_fromColumns (A₁ : Matrix m₁ n R) (A₂ : Matrix m₂ n R)
    (B₁ : Matrix n n₁ R) (B₂ : Matrix n n₂ R) :
    (fromRows A₁ A₂) ⬝ (fromColumns B₁ B₂) =
      fromBlocks (A₁ ⬝ B₁) (A₁ ⬝ B₂) (A₂ ⬝ B₁) (A₂ ⬝ B₂) := by
  ext (_ | _) (_ | _) <;> simp

/-- A column partitioned matrix mulitplied by a row partitioned matrix gives the sum of the "outer"
products of the block matrices -/
lemma fromColumns_mul_fromRows (A₁ : Matrix m n₁ R) (A₂ : Matrix m n₂ R)
    (B₁ : Matrix n₁ n R) (B₂ : Matrix n₂ n R) :
    fromColumns A₁ A₂ ⬝ fromRows B₁ B₂ = (A₁ ⬝ B₁ + A₂ ⬝ B₂) := by
  ext
  simp [mul_apply]

/-- A column partitioned matrix multipiled by a block matrix results in a column partioned matrix -/
lemma fromColumns_mul_fromBlocks (A₁ : Matrix m m₁ R) (A₂ : Matrix m m₂ R)
    (B₁₁ : Matrix m₁ n₁ R) (B₁₂ : Matrix m₁ n₂ R) (B₂₁ : Matrix m₂ n₁ R) (B₂₂ : Matrix m₂ n₂ R) :
    (fromColumns A₁ A₂) ⬝ fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ =
      fromColumns (A₁ ⬝ B₁₁ + A₂ ⬝ B₂₁) (A₁ ⬝ B₁₂ + A₂ ⬝ B₂₂) := by
  ext _ (_ | _) <;> simp [mul_apply]

/-- A block matrix mulitplied by a row partitioned matrix gives a row partitioned matrix -/
lemma fromBlocks_mul_fromRows (A₁ : Matrix n₁ n R) (A₂ : Matrix n₂ n R)
    (B₁₁ : Matrix m₁ n₁ R) (B₁₂ : Matrix m₁ n₂ R) (B₂₁ : Matrix m₂ n₁ R) (B₂₂ : Matrix m₂ n₂ R) :
    fromBlocks B₁₁ B₁₂ B₂₁ B₂₂ ⬝ (fromRows A₁ A₂) =
      fromRows (B₁₁ ⬝ A₁ + B₁₂ ⬝ A₂) (B₂₁ ⬝ A₁ + B₂₂ ⬝ A₂) := by
  ext (_ | _) _ <;> simp [mul_apply]
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 14]
```diff
@@ -0,0 +1,332 @@
...
+  intro h
+  rw [← Matrix.submatrix_id_id (fromRows B₁ B₂ ⬝ fromColumns A₁ A₂),
+    ← Matrix.submatrix_mul_equiv (fromRows B₁ B₂) (fromColumns A₁ A₂) _ e.symm _]
+  swap
+  intro h
+  rw [← Matrix.submatrix_id_id (fromColumns A₁ A₂ ⬝ fromRows B₁ B₂),
+    ← Matrix.submatrix_mul_equiv (fromColumns A₁ A₂) (fromRows B₁ B₂) _ e _]
+  all_goals
+  ( rw [mul_eq_one_comm, ← Matrix.submatrix_mul, h, submatrix_one_equiv]
+    exact Function.bijective_id )
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:295]: I tried to restructure the proof to emphasise `mul_eq_one_comm` and then rewrite both sides so they'd resemble this. I came up with the following:
```suggestion
  calc fromColumns A₁ A₂ ⬝ fromRows B₁ B₂ = 1
  _ ↔ submatrix (fromColumns A₁ A₂) id e ⬝ submatrix (fromRows B₁ B₂) e id = 1 := by
    simp
  _ ↔ submatrix (fromRows B₁ B₂) e id ⬝ submatrix (fromColumns A₁ A₂) id e = 1 :=
    mul_eq_one_comm
  _ ↔ reindex e.symm e.symm (fromRows B₁ B₂ ⬝ fromColumns A₁ A₂) = reindex e.symm e.symm 1 := by
    simp only [reindex_apply, Equiv.symm_symm, submatrix_one_equiv,
        submatrix_mul (he₂ := Function.bijective_id)]
  _ ↔ fromRows B₁ B₂ ⬝ fromColumns A₁ A₂ = 1 :=
    (reindex _ _).injective.eq_iff
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 15]
```diff
@@ -0,0 +1,332 @@
...
+/- A row partioned matrix in a Star ring when conjugate transposed gives a column partitioned matrix
+with the rows of the initial matrix conjugate transposed to become columns. -/
+lemma conjTranspose_fromRows_eq_fromColumns_conjTranspose (A₁ : Matrix m₁ n R)
+    (A₂ : Matrix m₂ n R) : conjTranspose (fromRows A₁ A₂) =
+      fromColumns (conjTranspose A₁) (conjTranspose A₂) := by
+  /- I left this one for comparison. I think this proof looks more compact (nice)! -/
+  rw [fromColumns, fromRows]
+  funext j i
+  cases' i with i i
+  all_goals (simp only [conjTranspose_apply, of_apply, Sum.elim_inl, Sum.elim_inr])
```
Comment (Vierkantor) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean:328]:
```suggestion

/- A column partioned matrix in a Star ring when conjugate transposed gives a row partitioned matrix
with the columns of the initial matrix conjugate transposed to become rows. -/
lemma conjTranspose_fromColumns_eq_fromRows_conjTranspose (A₁ : Matrix m n₁ R)
    (A₂ : Matrix m n₂ R) :
    conjTranspose (fromColumns A₁ A₂) = fromRows (conjTranspose A₁) (conjTranspose A₂) := by
  ext (_ | _) _ <;> simp

/- A row partioned matrix in a Star ring when conjugate transposed gives a column partitioned matrix
with the rows of the initial matrix conjugate transposed to become columns. -/
lemma conjTranspose_fromRows_eq_fromColumns_conjTranspose (A₁ : Matrix m₁ n R)
    (A₂ : Matrix m₂ n R) : conjTranspose (fromRows A₁ A₂) =
      fromColumns (conjTranspose A₁) (conjTranspose A₂) := by
  ext _ (_ | _) <;> simp
```

**Review by Vierkantor — APPROVED** [review]
I went through and cleaned up the proofs. If you're happy with the changes, then this looks ready to me.

Thanks!

bors d+

**Comment by MohanadAhmed** [comment]
> ✌️ MohanadAhmed can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+
